US07851473B2
(2) 1-[3-(2-Fluorophenyl)-1,2,4-thiadiazol-5-yl]piperazine hydrochloride
A mixture of tert-butyl 4-[3-(2-fluorophenyl)-1,2,4-thiadiazol-5-yl]piperazine-1-carboxylate (5.70 g, 15.6 mmol), 4 N hydrogen chloride/ethyl acetate (200 ml) and methanol (100 ml) was stirred at room temperature for 12 hours. The solvent was distilled off under reduced pressure, and the residue was recrystallized from a mixed solvent of methanol and ether to give 4.31 g (86.5%) of the desired product as a solid.

reactant | tert-butyl 4-[3-(2-fluorophenyl)-1,2,4-thiadiazol-5-yl]piperazine-1-carboxylate | 15.6 mmol, 5.70 g | FC1=C(C=CC=C1)C1=NSC(=N1)N1CCN(CC1)C(=O)OC(C)(C)C | C17H21FN4O2S
reactant | hydrogen chloride ethyl acetate | 4 N, 200 ml | Cl.C(C)(=O)OCC
solvent | methanol | 100 ml | CO | CH4O
product | 1-[3-(2-Fluorophenyl)-1,2,4-thiadiazol-5-yl]piperazine hydrochloride | 4.31 g, 86.5% | Cl.FC1=C(C=CC=C1)C1=NSC(=N1)N1CCNCC1 | InChI=1S/C12H13FN4S.ClH/c13-10-4-2-1-3-9(10)11-15-12(18-16-11)17-7-5-14-6-8-17;/h1-4,14H,5-8H2;1H
